### PR TITLE
feat: the limit of the norm of the evaluation of `f` at any increasing approximate unit is the norm of `f`

### PR DESCRIPTION
**Pull request by themathqueen**

### CODE REVIEW

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 1]
```diff
@@ -90,31 +93,38 @@ end CauchySchwarz
...
+    obtain ⟨_, ⟨a, ha1, rfl⟩, ha2⟩ := exists_lt_of_lt_csSup (b := ‖(f : A →L[ℂ] ℂ)‖ - ε / 4)
+      ((Metric.nonempty_closedBall (x := 0).mpr zero_le_one).image (‖f ·‖))
+      (by grind [f.toContinuousLinearMap.sSup_unitClosedBall_eq_norm])
+    have h3 : ∀ᶠ x in l, ‖f (x * a)‖ ^ 2 ≤ ‖f x‖ * ‖(f : A →L[ℂ] ℂ)‖ := by
+      filter_upwards [hl.eventually_nonneg, hl.eventually_norm] with x hx1 hx2
+      have : ‖f (star x * x)‖ ≤ ‖f x‖ := by
+        refine CStarAlgebra.norm_le_norm_of_nonneg_of_le (f.map_nonneg (star_mul_self_nonneg _)) ?_
+        exact f.mono <| hx1.star_eq.symm ▸ CStarAlgebra.mul_self_le_of_nonneg_of_norm_le_one hx1 hx2
+      conv_lhs => rw [← hx1.star_eq]
+      grw [cauchy_schwarz_star_mul f x a, mul_pow, Real.sq_sqrt (norm_nonneg _),
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean]: Note: `cauchy_schwarz_foo` is probably not a great name? Could be an abbreviation though for discoverability?

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 2]
```diff
@@ -90,31 +93,38 @@ end CauchySchwarz
...
+    l.Tendsto (‖f ·‖) (𝓝 ‖(f : A →L[ℂ] ℂ)‖) := by
+  refine Metric.tendsto_nhds.mpr fun ε hε ↦ ?_
+  have h : ∀ᶠ x in l, ‖f x‖ ≤ ‖(f : A →L[ℂ] ℂ)‖ + ε / 2 := by
+    filter_upwards [hl.eventually_norm] with x hx
+    grw [show f x = (f : A →L[ℂ] ℂ) x by rfl, ContinuousLinearMap.le_opNorm, hx, mul_one]
+    grind
+  have h2 : ∀ᶠ x in l, ‖(f : A →L[ℂ] ℂ)‖ - ε / 2 < ‖f x‖ := by
+    obtain ⟨_, ⟨a, ha1, rfl⟩, ha2⟩ := exists_lt_of_lt_csSup (b := ‖(f : A →L[ℂ] ℂ)‖ - ε / 4)
+      ((Metric.nonempty_closedBall (x := 0).mpr zero_le_one).image (‖f ·‖))
+      (by grind [f.toContinuousLinearMap.sSup_unitClosedBall_eq_norm])
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean:119]: Important note: in Mathlib, `unitClosedBall` is used. So we should change all forms of `closedUnitBall` in LeanOA to that.
I think `closedBall 0 1` should be an abbreviation since it's used a lot, it would at least allow for consistent naming.

File: LeanOA/Mathlib/Analysis/CStarAlgebra/PositiveLinearMap.lean [hunk 3]
```diff
@@ -1,15 +1,31 @@
...
+
+@[simp] theorem toPositiveContinuousLinearMap_apply (x : A₁) :
+    f.toPositiveContinuousLinearMap x = f x := rfl
+@[simp] theorem toPositiveContinuousLinearMap_zero :
+    (0 : A₁ →ₚ[ℂ] A₂).toPositiveContinuousLinearMap = 0 := rfl
+@[simp] lemma toPositiveContinuousLinearMap_id :
+    (PositiveLinearMap.id ℂ A₁).toPositiveContinuousLinearMap = .id ℂ A₁ := rfl
 
-@[simp] theorem toContinuousLinearMap_apply (x : A₁) : f.toContinuousLinearMap x = f x := rfl
+instance : CoeTC (A₁ →ₚ[ℂ] A₂) (A₁ →P[ℂ] A₂) := ⟨toPositiveContinuousLinearMap⟩
```
Comment (j-loreaux) [inline LeanOA/Mathlib/Analysis/CStarAlgebra/PositiveLinearMap.lean]: I don't think we want this to be a coercion.

File: LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean [hunk 4]
```diff
@@ -17,3 +17,13 @@ lemma CStarAlgebra.dominated_convergence {x y : ι → A} (hx : Summable x)
   refine CStarAlgebra.norm_le_norm_of_nonneg_of_le (t.sum_nonneg fun i _ ↦ (hy_nonneg i)) ?_
   gcongr
   exact h_le _
+
+open Unitization in
+/-- If `e` is an element of the nonnegative closed unit ball, then `e * e ≤ e`, with equality
+if `e` is an extreme point
+(see `isStarProjection_iff_mem_extremePoints_nonneg_and_mem_closedUnitBall`). -/
+lemma CStarAlgebra.mul_self_le_of_nonneg_of_norm_le_one {e : A} (he0 : 0 ≤ e) (he1 : ‖e‖ ≤ 1) :
+    e * e ≤ e := by
```
Comment (j-loreaux) [inline LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean]: Can you generalize this to `nnrpow` and then get a version for sqrt too? Of course, the statement will be split on whether the exponent is greater or less than 1.

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 5]
```diff
@@ -86,35 +89,51 @@ lemma cauchy_schwarz_mul_star (f : A →ₚ[ℂ] ℂ) (x y : A) :
...
+    show f (star e * e) = (f : A →L[ℂ] ℂ) _ by rfl, ContinuousLinearMap.le_opNorm,
+    CStarRing.norm_star_mul_self, he2, one_mul, mul_one]
+
 end CauchySchwarz
 
-end PositiveLinearMap
+open Topology in
+theorem tendsto_isIncreasingApproximateUnit_nhds_opNorm {A : Type*} [NonUnitalCStarAlgebra A]
+    [PartialOrder A] [StarOrderedRing A] (f : A →ₚ[ℂ] ℂ) {l : Filter A}
+    (hl : l.IsIncreasingApproximateUnit) : l.Tendsto (‖f ·‖) (𝓝 ‖(f : A →L[ℂ] ℂ)‖) := by
```
Comment (j-loreaux) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean]: Thanks for doing this!

**Review by j-loreaux — COMMENTED** [review]
Looks pretty good
